US05498737
4.8 g (20 mmol) of p-trifluoromethoxybromobenzene was dripped into a mixture of 0.5 g (21 mmol) of magnesium and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 10 mg of copper chloride (I), 10 mg of copper chloride (II) and 7.3 g (20 mmol) of trans-4-(2-bromoethyl) cyclohexyl)-1-n-propyl-1-silacyclohexane. After a conventional after treatment, 6.6 g (yield 80%) of trans-4-(trans-4-(2-(4-trifluoromethoxyphenyl) ethyl) cyclohexyl)-1-n-propyl-1-silacyclohexane was obtained.

reactant | p-trifluoromethoxybromobenzene | 20 mmol, 4.8 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 1-n-propyl-1-silacyclohexane | C(CC)[SiH]1CCCCC1 | C8H18Si
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | copper chloride | 10 mg | [Cu](Cl)Cl
catalyst | copper chloride | 10 mg | [Cu](Cl)Cl
product | trans-4-(trans-4-(2-(4-trifluoromethoxyphenyl) ethyl) cyclohexyl)-1-n-propyl-1-silacyclohexane | 6.6 g, yield 80% | FC(OC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC)(F)F | C23H35F3OSi
